US09388142B2
To a solution of 4-(4-methoxycarbonyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (776 mg, 2.43 mmol) in dichloromethane (10 ml) are added diethylsilane (470 μl, 3.64 mmol) and chlorobis(cyclooctene)iridium(I) dimer (22 mg, 0.025 mmol) and the mixture is irradiated in a microwave reactor for 1.5 hours at 50° C. The reaction mixture is stirred vigorously with 2 N hydrochloric acid (0.6 ml) for 30 minutes. The organic layer is separated, dried over sodium sulfate and evaporated. The residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to afford 4-(4-formyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester as yellow resin; HPLC/MS 2.10 min (A), [M-tBu] 234.

reactant | 4-(4-methoxycarbonyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.43 mmol, 776 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C(=O)OC | C18H25NO4
reactant | diethylsilane | 3.64 mmol, 470 μl | C(C)[SiH2]CC | C4H12Si
reactant | hydrochloric acid | 2 N, 0.6 ml | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | chlorobis(cyclooctene)iridium(I) dimer | 0.025 mmol, 22 mg | C1CC/C=C\CCC1.C1CC/C=C\CCC1.C1CC/C=C\CCC1.C1CC/C=C\CCC1.[Cl-].[Cl-].[Ir].[Ir]
product | 4-(4-formyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C=O | C17H23NO3
